US05215924
172.8 g (1.2 mol) 2-naphthol (98%) is added to a solution of 48 g (1.2 mol) sodium hydroxide (99%) in 1 l ethanol in a 4 l three-neck flask with stirrer, cooler and thermometer, after it has dissolved 417 g (1.25 mol) n-octadecylbromide are added and the reaction mixture is heated for 14 hours under reflux. After addition of a further 1 l ethanol the hot solution is aspirated over a Seitz filter to remove inorganic material and the weakly pink coloured filtrate is brought to crystallization by placing it in an ice bath for 30 minutes. After aspiration of the almost colourless crystals, the filter cake is washed in portions with ca. 700 ml ethanol and after drying over diphosphorus pentoxide 371.9 g (93.7% of the theoretical yield) 2-octadecyloxynaphthalene are obtained as colourless crystals, Fp 64°-68° C.

reactant | 2-naphthol | 1.2 mol, 172.8 g | C1=C(C=CC2=CC=CC=C12)O | C10H8O
reactant | sodium hydroxide | 1.2 mol, 48 g | [OH-].[Na+]
reactant | n-octadecylbromide | 1.25 mol, 417 g | C(CCCCCCCCCCCCCCCCC)Br | C18H37Br
solvent | ethanol | 1 l | C(C)O | C2H6O
solvent | ethanol | 1 l | C(C)O | C2H6O
product | 2-octadecyloxynaphthalene | C(CCCCCCCCCCCCCCCCC)OC1=CC2=CC=CC=C2C=C1 | C28H44O
